US08212041B2
6-((6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
A mixture of 1-(6-chloropyridazin-3-yl)hydrazine (1.67 g, 12 mmol), 2-(quinolin-6-yl)acetic acid (1.65 g, 8.8 mmol), and HCl (2000 μl, 24 mmol) was heated in an oil bath at 110° C. for 20 min before it was heated in a microwave (Personal Chemistry) at 180° C.&15 min. The mixture was quenched with a solution of NaOH (1.2 g, 5 mL) slowly until the suspension is ˜neutral in pH. The mixture was filtered and washed with H2O (2×5 mL). A brown solid was obtained (2.2 g). The solid was treated with aqueous Na2CO3 (3 g, 20 mL, pH ˜11) and heated at 50° C. for 30 min. The blue mixture was cooled to room temperature, and filtered. The black solid was washed with H2O and lyophilized to give the product.

reactant | 1-(6-chloropyridazin-3-yl)hydrazine | 12 mmol, 1.67 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | 2-(quinolin-6-yl)acetic acid | 8.8 mmol, 1.65 g | N1=CC=CC2=CC(=CC=C12)CC(=O)O | C11H9NO2
reactant | HCl | 24 mmol, 2000 μl | Cl | ClH
solvent | Na2CO3 | 20 mL, 3 g, pH ˜11 | C(=O)([O-])[O-].[Na+].[Na+]
product | 6-((6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C15H10ClN5
